US03966966
Step C: [1,3-Dioxo-2-methyl-2-(2-thienyl)-4,5-dichloro-6-indanyloxy]acetic acid
A stirred mixture of 2-methyl-2-(2-thienyl)-4,5-dichloro-6-hydroxyindan-1,3-dione (3.26 g., 0.01 mole), potassium carbonate (2.77 g., 0.02 mole) and ethyl bromoacetate (3.34 g., 0.02 mole) in dimethylformamide (40 ml.) is warmed at 55°-60°C. for 2 hrs., then treated with water (40 ml.) and 10N sodium hydroxide solution (4 ml., 0.04 mole) and heated at 100°C. for 1 hr. The reaction mixture is added slowly to crushed ice-water (700 ml.)-12N hydrochloric acid (10 ml.) to precipitate [1,3-dioxo-2-methyl-2-(2-thienyl)-4,5-dichloro-6-indanyloxy]acetic acid.

reactant | 2-methyl-2-(2-thienyl)-4,5-dichloro-6-hydroxyindan-1,3-dione | 0.01 mole, 3.26 g | CC1(C(C2=CC(=C(C(=C2C1=O)Cl)Cl)O)=O)C=1SC=CC1 | C14H8Cl2O3S
reactant | potassium carbonate | 0.02 mole, 2.77 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 0.02 mole, 3.34 g | BrCC(=O)OCC | C4H7BrO2
reactant | sodium hydroxide | 0.04 mole, 10N, 4 ml | [OH-].[Na+]
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | water | 40 ml | O | H2O
product | [1,3-Dioxo-2-methyl-2-(2-thienyl)-4,5-dichloro-6-indanyloxy]acetic acid | O=C1C(C(C2=C(C(=C(C=C12)OCC(=O)O)Cl)Cl)=O)(C=1SC=CC1)C | C16H10Cl2O5S
